US04661636
2-Formyl-4-ethyl-6-methylsulfonylphenol
0.79 g (0.003 mol) of 2-aminomethyl-4-ethyl-6-methylsulfonylphenol hydrochloride is reacted with0.42 g of hexamethylenetetramine in 6 ml of trifluoroacetic acid in analogy to Example 1. Melting point: 114°-116° C.

reactant | 2-aminomethyl-4-ethyl-6-methylsulfonylphenol hydrochloride | 0.003 mol, 0.79 g | Cl.NCC1=C(C(=CC(=C1)CC)S(=O)(=O)C)O
reactant | hexamethylenetetramine | 42 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Formyl-4-ethyl-6-methylsulfonylphenol | C(=O)C1=C(C(=CC(=C1)CC)S(=O)(=O)C)O | C10H12O4S
